US09376452B2
2-(3-benzoylthioureido)-5-methyl-5,7-dihydro-4H-thieno[2,3-c]pyran-3-carboxylic acid (SID 9931128/CID46916263)
To tert-butyl 2-(3-benzoylthioureido)-5-methyl-5,7-dihydro-4H-thieno[2,3-c]pyran-3-carboxylate (0.028 g, 0.065 mmol, 1 eq.) was added a 40% v/v solution of trifluoroacetic acid in dichloromethane (2.5 mL). After stirring the solution for 4 hours at rt, the solvent was evaporated in vacuo, and the residue purified by reverse-phase chromatography to yield the product as a white semi-solid (0.011 g, 0.029 mmol, 46% yield). 1H NMR (400 MHz, Acetone) δ 8.07 (d, J=7.4, 2H), 7.68 (t, J=7.0, 1H), 7.56 (t, J=7.5, 2H), 4.76 (q, J=14.7, 2H), 3.82-3.68 (m, 1H), 3.05 (d, 1H), 1.47 (d, J=6.5, 1H), 1.32 (d, J=6.1, 3H). 13C NMR (126 MHz, Acetone) δ 175.37, 166.92, 165.37, 161.89, 148.65, 134.12, 133.28, 131.39, 129.62, 129.28, 126.49, 71.61, 65.11, 35.05, 21.82. LCMS retention time: 3.095 min; Purity at 214 nm=93.3%. HRMS m/z calculated for C17H17N2O4S2 [M++1] 377.0624. found 377.0622.

reactant | tert-butyl 2-(3-benzoylthioureido)-5-methyl-5,7-dihydro-4H-thieno[2,3-c]pyran-3-carboxylate | 0.065 mmol, 0.028 g, 1 eq. | C(C1=CC=CC=C1)(=O)NC(NC1=C(C2=C(COC(C2)C)S1)C(=O)OC(C)(C)C)=S | C21H24N2O4S2
reactant | trifluoroacetic acid | FC(C(=O)O)(F)F | C2HF3O2
solvent | dichloromethane | 2.5 mL | ClCCl | CH2Cl2
product | 2-(3-benzoylthioureido)-5-methyl-5,7-dihydro-4H-thieno[2,3-c]pyran-3-carboxylic acid | 0.029 mmol, 0.011 g, 46% yield | C(C1=CC=CC=C1)(=O)NC(NC1=C(C2=C(COC(C2)C)S1)C(=O)O)=S | C17H16N2O4S2
